US08748613B2
37% aq HCl (1.1 ml, 13.5 mmol) was added dropwise to a solution of ethyl 2-phenyl-2-thiomorpholinoacetate (0.36 g, 1.35 mmol) in dioxane (11 ml). The mixture was stirred at reflux overnight. Then 37% aq HCl (1.1 ml, 13.5 mmol) was added again and the reaction was refluxed for additional 24 hours. Solvents were evaporated, the residue was triturated with acetonitrile and collected by suction filtration to obtain 2-phenyl-2-thiomorpholinoacetic acid hydrochloride (0.13 g, 34.4% yield) as a off-white solid.

reactant | HCl | 13.5 mmol, 1.1 ml | Cl | ClH
reactant | ethyl 2-phenyl-2-thiomorpholinoacetate | 1.35 mmol, 0.36 g | C1(=CC=CC=C1)C(C(=O)OCC)N1CCSCC1 | C14H19NO2S
reactant | HCl | 13.5 mmol, 1.1 ml | Cl | ClH
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
product | 2-phenyl-2-thiomorpholinoacetic acid hydrochloride | 0.13 g, 34.4% yield | Cl.C1(=CC=CC=C1)C(C(=O)O)N1CCSCC1 | InChI=1S/C12H15NO2S.ClH/c14-12(15)11(10-4-2-1-3-5-10)13-6-8-16-9-7-13;/h1-5,11H,6-9H2,(H,14,15);1H
